2164-02-28 06:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -BP 70s/40s on Right arm->fixed cuff and came up to 90s/50s (baseline
   from admission 110s/70s). Gave 500cc bolus.
   -Weaned off vent
   -Became hypoxic and wouldnt keep O2 on. Got Zyprexa and restraints. CXR
   showed increased pulm edema so gave 20mg IV lasix
   - Head CT negative
   - TTE with new RV dilation (?PAH vs inferior MI) and severe AS (valve =
   0.7cm2) compared to TTE [**2160**] but poor image quality on both.
   - LENIs ordered because family said has had swollen/red LE for 2 weeks
   but u/s wouldnt come up to do them til tomorrow am.
   - Tachycardic to 110s and HTN to 150s so re-started metoprolol.
   - delirious overnight. Got Zydis 5mg X 2 and had to have restraints
   ordered.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2164-2-27**] 09:00 AM
   Heparin Sodium (Prophylaxis) - [**2164-2-27**] 04:00 PM
   Furosemide (Lasix) - [**2164-2-27**] 08:15 PM
   Metoprolol - [**2164-2-27**] 09:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-2-28**] 06:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.3
C (99.2
   HR: 77 (71 - 136) bpm
   BP: 126/68(81) {72/42(49) - 159/95(105)} mmHg
   RR: 23 (9 - 35) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
                  Total In:
                                                                  3,713 mL
                  PO:
                  TF:
   IVF:
                                                                    633 mL
   Blood products:
   Total out:
                                                                  1,640 mL
                                                                  1,025 mL
   Urine:
                                                                  1,640 mL
                                                                  1,025 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,073 mL
                                                                 -1,025 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 449 (449 - 449) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 15 cmH2O
   Plateau: 18 cmH2O
   SpO2: 94%
   ABG: 7.36/40/67/25/-2
   Ve: 7.9 L/min
   PaO2 / FiO2: 112
   Physical Examination
   GEN: Lying flat in bed in NAD
   HEENT: Dry MM. On shovel mask
   NECK: JVD to earlobe. Unable to auscultate carotids [**1-2**] loud breath
   sounds
   LUNGS: Anteriorly clear, unable to assess posteriorly
   HEART: Irregularly irregular. Normal S1/S2. Soft mid-peaking systolic
   murmur heard best at base.
   ABD: Soft. NT/ND
   EXTREM: RLE 1+ pitting edema to knees. LLE without edema. DP pulses 1+
   BL. Negative Homans sign bilaterally
   NEURO: Alert. Oriented X 1.
   Labs / Radiology
   156 K/uL
   11.7 g/dL
   92 mg/dL
   1.8 mg/dL
   25 mEq/L
   4.2 mEq/L
   31 mg/dL
   112 mEq/L
   145 mEq/L
   36.0 %
   6.7 K/uL
        [image002.jpg]
                             [**2164-2-27**]  03:31 AM
                             [**2164-2-27**]  07:07 AM
                             [**2164-2-27**]  02:35 PM
                             [**2164-2-27**]  02:46 PM
                             [**2164-2-28**]  04:09 AM
   WBC
   7.3
   6.7
   Hct
   39.5
   36.0
   Plt
   158
   156
   Cr
   1.7
   1.8
   TCO2
   21
   24
   24
   Glucose
   127
   107
   92
   Other labs: PT / PTT / INR:15.0/30.1/1.3, Lactic Acid:1.2 mmol/L,
   Ca++:8.2 mg/dL, Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   Imaging: Head CT:  1. Right corona radiata hypodensity is age
   indeterminate. This likely an old infarct and chronic microvascular
   disease but MR is more sensitive in establishing acuity.
   2. Unchanged prominence of the left Sylvian fissure with possible
   encephalomalacia in the left MCA territory.
   TTE: The left atrium is dilated. The right atrium is moderately
   dilated. There is mild symmetric left ventricular hypertrophy with
   normal cavity size. Overall left ventricular systolic function is
   severely depressed (LVEF= 25-30%). The septum is nearly akinetic and
   the other basal segments moderately hypokinetic. The apex has
   relatively preserved function. The right ventricular cavity is mildly
   dilated with mild global free wall hypokinesis. The number of aortic
   valve leaflets cannot be determined. The aortic valve leaflets are
   severely thickened/deformed. There is severe aortic valve stenosis
   (area <0.8cm2). Mild (1+) aortic regurgitation is seen. The mitral
   valve leaflets are mildly thickened. There is no mitral valve prolapse.
   Mild (1+) mitral regurgitation is seen. The tricuspid valve leaflets
   are mildly thickened. Moderate [2+] tricuspid regurgitation is seen.
   There is moderate pulmonary artery systolic hypertension. Significant
   pulmonic regurgitation is seen. There is no pericardial effusion.
   IMPRESSION: Mild symmetric LVH with severe septal hypokinesis, moderate
   hypokinesis of the basal to mid segments and relative preservation of
   the apical segments. The degree of aortic stenosis is probably severe
   (velocity falsely LOW due to reduced systolic function). Dilated and
   hypokinetic right ventricle. Mild mitral and moderate tricuspid
   regurgitation with moderate pulmonary artery systolic hypertension.
   Compared with the prior study (images reviewed) of [**2161-3-18**], direct
   comparison is difficult as both studies are suboptimal. Overall LV
   systolic function is probably similar. The right ventricle now appears
   dilated and hypokinetic. The degree of aortic stenosis has increased.
   Assessment and Plan
   [**Age over 90 **]yo male with history of CAD s/p CABG, AS, afib with ppm, and CHF was
   admitted s/p cardiac arrest of unclear etiology.
   1. Cardiac Arrest
   Etiology of the cardiac arrest is unclear, unlikely to be true cardiac
   arrest given interrogation of the pacemaker.  Most likely a mechanical
   fall.  Could possibly be a PE, or syncope from severe AS.
   - Appreciate EP recs. PPM functioning appropriately. Afib when not
   paced but rate only ~100.
   - Monitor on telemetry
   - cultures pending
   - head CT negative
   - LENIs today
   - Follow up as O/P with Cards in 1 month
   2. ? PTX
   Patient's CXR had a questionable PTX after intubation. Thoracic surgery
   was consulted in the ED and recommended a follow-up chest X ray X2, no
   evidence of PTX following.
   - Monitor respiratory status
   3. Respiratory Failure
   Resolved.  Patient was intubated in the setting of cardiac arrest.
   Patient does not seem to have a clear diagnosis of baseline pulmonary
   disease and there is no clear evidence of new infiltrates or pulmonary
   edema.
   - now weaned off sedation and satting well on face mask (when keeps it
   on)
   - Possible etiology may be CHF given TTE findings and improvement in
   oxygenation with lasix. Conservative diuresis given AS may help
   respiratory status
   4. AS: patient has severe AS on TTE worse than yesterday.  Medical
   management only for now, consider surgical intervention in the future.
   -  [**Month (only) 11**] be cause of syncope and fall
   5. Congestive Heart Failure
   Patient has a history of CHF and had depressed EF on TTE yesterday
   - continue beta blocker and digoxin for now
   - check digoxin level
   - unclear why patient is not on an [**Name (NI) 3291**] but restarted Cozaar yesterday
   - diuresis today
   6. CAD
   Patient has a history of of CAD s/p CABG. No clear history of chest
   pain and ECG looks relatively unchanged from prior.
   - continue aspirin, statin, and beta blocker
   - restarted on [**Last Name (un) 284**]
   7. Depression and Dementia
   Stable
   - continue citalopram, aricept, and Namenda
   7. Hypothyroidism
   Stable
   - continue levothyroxine
   8. GERD
   Stable
   - continue prilosec
   9. Atrial Fibrillation
   Patient has a history of atrial fibrillation and is s/p ppm placement.
   Unclear if he has been anticoagulated in the past. As above EP was
   consulted, interrogated the PPM and found AFib when patient was not
   paced.
   - Will clarify anticoagulation status
   10. Lower Extremity Swelling: With RV dilation on TTE new from prior
   concern for PAH from PE
   - LENIs were ordered for yesterday but not done. Will be done today.
   11. Acidosis
   Resolved.  Patient's acidosis appears most likely related to
   respiratory acidosis in the setting recent intubation and possibly
   hypoventilation, as well as metabolic acidosis in the setting of renal
   failure, slightly elevated lactate, and elevated BUN.
   - consider weaning sedation to allow increased ventilation
   12. Renal Failure
   Unclear of the chronicity of patient's renal failure. Patient has had
   creatinines in the range of 1.3-2 in the past 5-6 years. Etiology
   appears most likely related to hypertension and vascular disease
   - avoid nephrotoxic medications
   - avoid contrast
   ICU Care
   Nutrition:  Cardiac Diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2164-2-27**] 05:26 AM
   Prophylaxis:
   DVT: Heparin SC TID
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  FULL CODE
   Disposition:  call out to the floor today
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 3146**].
   I would add the following remarks:
   Above discussed extensively with patient. Above discussed extensively
   with family member, next of [**Doctor First Name **] or health care proxy. I have discussed
   this plan with Dr(s). CCU team.
   Total time spent on patient care: 30 minutes.
   Additional comments:
   Doing well. Extubated.  Still somewhat deliriuos.  Echo with severe AS,
   depressed RV function.  I spoke to him and his son [**Name (NI) 117**] - pt would not
   want a second sternotomy and AVR +/- redo-CABG.  He was previously on
   warfarin, but was taken off because he was "too old for it", ass to the
   son.  [**Name (NI) **] has not had a lot of falls recently other than his presenting
   episode.
   Plan:
   1. Restart warfarin.
   2. MedRx for CAD.
   3. Avoid vasodilation other [**First Name8 (NamePattern2) **] [**Last Name (un) 284**].
   4. Transfer to stepdown.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3671**], MD
   on:[**2164-2-28**] 13:11 ------

2164-02-28 19:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2164-2-27**] 11:15 AM
 INVASIVE VENTILATION - STOP [**2164-2-27**] 03:10 PM
 URINE CULTURE - At [**2164-2-27**] 09:29 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2164-2-27**] 08:15 PM
   Metoprolol - [**2164-2-27**] 09:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-2-28**] 07:55 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 71 (71 - 136) bpm
   BP: 93/53(74) {89/48(59) - 159/100(110)} mmHg
   RR: 22 (14 - 35) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
                  Total In:
                                                                  3,713 mL
                                                                    350 mL
   PO:
                  350 mL
   TF:
   IVF:
                                                                    633 mL
   Blood products:
   Total out:
                                                                  1,640 mL
                                                                  2,325 mL
   Urine:
                                                                  1,640 mL
                                                                  2,325 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,073 mL
                                                                 -1,975 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   156 K/uL
   11.7 g/dL
   103 mg/dL
   1.8 mg/dL
   25 mEq/L
   4.1 mEq/L
   31 mg/dL
   112 mEq/L
   145 mEq/L
   36.0 %
   6.7 K/uL
        [image002.jpg]
                             [**2164-2-27**]  03:31 AM
                             [**2164-2-27**]  07:07 AM
                             [**2164-2-27**]  02:35 PM
                             [**2164-2-27**]  02:46 PM
                             [**2164-2-28**]  04:09 AM
                             [**2164-2-28**]  05:07 PM
   WBC
   7.3
   6.7
   Hct
   39.5
   36.0
   Plt
   158
   156
   Cr
   1.7
   1.8
   TCO2
   21
   24
   24
   Glucose
   127
   107
   92
   103
   Other labs: PT / PTT / INR:15.0/30.1/1.3, Lactic Acid:1.2 mmol/L,
   Ca++:8.2 mg/dL, Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 DELIRIUM / CONFUSION
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SYNCOPE
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2164-2-27**] 05:26 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2164-02-29 05:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   LENI neg
   CXR neg
   started warfarin
   advanced diet
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-2-29**] 05:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.6
C (99.6
   HR: 71 (71 - 84) bpm
   BP: 137/61(78) {81/48(57) - 147/100(110)} mmHg
   RR: 21 (14 - 28) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
                  Total In:
                                                                    350 mL
                  PO:
                                                                    350 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,465 mL
                                                                    201 mL
   Urine:
                                                                  2,465 mL
                                                                    201 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,115 mL
                                                                   -201 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, High flow neb
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   Gen: elderly male, NAD, lying in bed, shovel mask on sleeping at
   30degrees
   HEENT: NCAT. Sclera anictericConjunctiva were pink, no pallor or
   cyanosis of the oral mucosa.
   Neck: Supple with JVP 3cm above clavicle
   CV: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No [**2-3**] mid-peaking SM RUSB
   Chest: Resp were unlabored, no accessory muscle use Upper airway sounds
   bilaterally with scattered crackles anteriorly
   Abd: Soft, NTND.
   Ext: 1+ edema RLE. Right elbow ecchymoses and skin tear.
   NEURO: Sleeping but arousable.
   Labs / Radiology
   149 K/uL
   12.1 g/dL
   107 mg/dL
   2.2 mg/dL
   28 mEq/L
   4.6 mEq/L
   41 mg/dL
   111 mEq/L
   146 mEq/L
   37.8 %
   6.6 K/uL
         [image002.jpg]
                             [**2164-2-27**]  03:31 AM
                             [**2164-2-27**]  07:07 AM
                             [**2164-2-27**]  02:35 PM
                             [**2164-2-27**]  02:46 PM
                             [**2164-2-28**]  04:09 AM
                             [**2164-2-28**]  05:07 PM
                             [**2164-2-29**]  04:20 AM
   WBC
   7.3
   6.7
   6.6
   Hct
   39.5
   36.0
   37.8
   Plt
   158
   156
   149
   Cr
   1.7
   1.8
   2.2
   TCO2
   21
   24
   24
   Glucose
   127
   107
   92
   103
   107
   Other labs: PT / PTT / INR:14.3/30.4/1.2, Lactic Acid:1.2 mmol/L,
   Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:4.5 mg/dL
   CXR
   FINDINGS: Since yesterday, interstitial edema increased and lung
   volumes are
   lower. Bibasilar opacities are unchanged, likely atelectasis. Bilateral
   pleural effusions are also increased, now small-to-moderate. Wires of
   sternotomy are intact. Single-chamber pacemaker ends in the right
   ventricle.
   There is no pneumothorax. The aorta is tortuous with deviation of the
   trachea. Narrowing of the transverse diameter of the trachea at the
   level of
   the thoracic inlet could be due to post-intubation edema or
   tracheomalacia.
   LENI (R)
   Negative for DVT
   Assessment and Plan
   [**Age over 90 **]yo male with history of CAD s/p CABG, AS, afib with ppm, and CHF was
   admitted s/p cardiac arrest of unclear etiology.
   1. Cardiac Arrest
   Etiology of the cardiac arrest is unclear, unlikely to be true cardiac
   arrest given interrogation of the pacemaker.  Most likely a mechanical
   fall.  Could possibly be a PE, or syncope from severe AS.
   - Appreciate EP recs. PPM functioning appropriately. Afib when not
   paced but rate only ~100. F/U device clinic in 1 month.
   - Monitor on telemetry
   - cultures pending
   - LENIs negative
   - Follow up as O/P with Cards in 1 month
   3. Respiratory Failure
   Resolved.  Patient was intubated in the setting of cardiac arrest.
   Patient does not seem to have a clear diagnosis of baseline pulmonary
   disease and there is no clear evidence of new infiltrates or pulmonary
   edema.
   - now weaned off sedation and satting well on face mask (when keeps it
   on)
   - Possible etiology may be CHF given TTE findings and improvement in
   oxygenation with lasix. Conservative diuresis given AS may help
   respiratory status
   - Ctes to have tracheal edema from intubation on CXR which may
   contribute to decreased sats. This should continue to improve over next
   few days. Advance diet slowly given risk of choking.
   4. Congestive Heart Failure
   Patient has a history of CHF and had depressed EF on TTE
   - continue beta blocker, coxaar and digoxin for now
   - With elevated sodium and creatinine likely slightly over-diuresed
   yesterday. Hold off further diuresis today and encourage PO free water
   intake as able.
   5. Atrial Fibrillation
   Patient has a history of atrial fibrillation and is s/p ppm placement.
   Unclear if he has been anticoagulated in the past. As above EP was
   consulted, interrogated the PPM and found AFib when patient was not
   paced.
   - Started warfarin yesterday for CVA ppx after discussing with family
   risks/benefits of coumadin. INR 1.2 today. No need for
   heparin->coumadin bridge
   -decrease asa to 81mg
   6. Lower Extremity Swelling: With RV dilation on TTE new from prior
   concern for PAH from PE
   - LENIs negative. Possible etiology may be knee replacement on that
   side.
   7. Hypernatremia: Likely [**1-2**] over-diuresis and poor PO intake with
   delirium and recent intubation.
   - Will encourage PO fluid intake.
   - Will be cautious with IVF given severe AS and CHF but if necessary
   will give some fluid
   8. Renal Failure
   Unclear of the chronicity of patient's renal failure. Patient has had
   creatinines in the range of 1.3-2 in the past 5-6 years. 2.2
   today->likely from over-diuresis as above combined with poor PO intake.
   -          Encourage POs
   -          Renally dose medications
   -          Avoid contrast
   -          Have creatinine checked tomorrow. If further elevation d/c
   losartan.
   ICU Care
   Nutrition: Clear liquids->advancing as tolerated.
   Lines:
   18 Gauge - [**2164-2-27**] 05:26 AM
   Prophylaxis:
   DVT: Coumadin/Hep SC
   Stress ulcer: Lansoparazole
   Communication:  With sons
   [**Name (NI) 129**] status: Full
   Disposition: Likely to rehab today
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 5142**].
   I would add the following remarks:
   Above discussed extensively with patient. I have discussed this plan
   with Dr(s). CCU team.
   Total time spent on patient care: 30 minutes.
   Additional comments:
   Doing well, more alert
   Plan:
   1. Continue MedRx for CAD
   2. Coumadin and ASA 81 mg/day for AF
   3. F/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 5143**]/[**Location (un) **] in 1 month, with Device clinic
   4. Likely rehab within 24 hours, then to [**Hospital3 2469**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3671**], MD
   on:[**2164-2-29**] 11:00 ------